data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_652636_1,[C:1](/[N:5]=[C:7](\[C:3]([H:18])([H:19])[H:20])[C:8]([C:4]([H:21])([H:22])[H:23])([C:6]([C:2]([H:15])([H:16])[H:17])=[O:10])[O:9][H:11])([H:12])([H:13])[H:14]>>[C:1]([N:5]([C:6]([C:2]([H:15])([H:16])[H:17])=[O:10])/[C:7]([C:3]([H:18])([H:19])[H:20])=[C:8](\[C:4]([H:21])([H:22])[H:23])[O:9][H:11])([H:12])([H:13])[H:14],50.28408499999173
MR_573266_0,[C:1]1(/[C:6]([C:4]([H:16])([H:17])[H:18])=[C:7](\[C:5]([H:19])([H:20])[H:21])[O:9][H:11])([O:8][H:10])[C:2]([H:12])([H:13])[C:3]1([H:14])[H:15]>>[C:1](\[C:2]([C:3]([H:14])([H:15])[H:20])([H:12])[H:13])(=[C:6](/[C:4]([H:16])([H:17])[H:18])[C:7](=[C:5]([H:19])[H:21])[O:9][H:11])[O:8][H:10],44.9748075000204
MR_31076_1,[C:1]1([C:4]([H:14])([H:15])[H:16])([N:6]([C:7]([C:5]([H:17])([H:18])[H:19])=[O:8])[H:9])[C:2]([H:10])([H:11])[C:3]1([H:12])[H:13]>>[C:1](\[C:2]([C:3]([C:7]([C:5]([H:17])([H:18])[H:19])=[O:8])([H:12])[H:13])([H:10])[H:11])([C:4]([H:14])([H:15])[H:16])=[N:6]/[H:9],70.90749999996405
MR_419689_1,[C:1]([O:6][C:3]12[N:2]([H:10])[C:4]1([O:7][H:9])[C:5]([H:11])=[N:8]2)([H:12])([H:13])[H:14]>>[C:1]([O:6][c:3]1[n:2]([H:10])[c:4]([O:7][H:9])[c:5]([H:11])[n:8]1)([H:12])([H:13])[H:14],14.527252499990198
MR_565699_1,[C:1]([C:6]1([C:4]([O:7][H:11])=[O:8])[N:3]([H:13])[N:2]([H:12])[C:5](=[O:9])[O:10]1)([H:14])([H:15])[H:16]>>[C:1]([C:6]([N:3]([N:2]([C:5]([C:4]([O:7][H:11])=[O:8])=[O:9])[H:12])[H:13])=[O:10])([H:14])([H:15])[H:16],67.67963999998102
MR_197644_1,[C:1]([C:2]([C:6](=[O:8])[H:12])([H:10])[H:11])([C:3]([H:14])([H:15])[H:16])([C:4]([H:13])([H:17])[H:18])[C:5](=[O:7])[H:9]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([C:4]([H:13])([H:17])[H:18])[C:2]([H:10])([H:11])[C@:6]1([O:8][C:5](=[O:7])[H:9])[H:12],70.32078750001858
MR_260312_1,[C:1]1([C:2]([O:8][C:6]([C:5]([H:17])([H:18])[H:19])=[O:9])([H:10])[H:11])([C:4]([H:14])([H:15])[H:16])[C:3]([H:12])([H:13])[O:7]1>>[C:1]1([C:2]([O:8][C:6]([C:5]([H:17])([H:18])[H:19])=[O:9])([H:10])[H:11])([C:4]([H:14])([H:15])[H:16])[C:3]([H:12])([H:13])[O:7]1,65.97535000000363
MR_83104_1,[C:1]([C:2]([C:5]([C:3]([C:4]([H:18])([H:19])[H:20])([H:16])[H:17])([N:6]([H:12])[H:13])[O:9][H:10])([H:14])[H:15])(=[O:7])[O:8][H:11]>>[C:1]([C:2]([C:5]([N:6]([H:12])[H:13])=[O:9])([H:14])[H:15])([C:3]([C:4]([H:18])([H:19])[H:20])([H:16])[H:17])([O:7][H:10])[O:8][H:11],64.43044500001619
MR_243102_0,[C:1]([C:3](=[C:2]([N:4]([H:9])[H:10])[N:5]([H:8])[H:11])[C:6](=[C:7]([H:16])[H:17])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:3]1=[C:6]([H:12])[C:7]([H:16])([H:17])[C:2]1([N:4]([H:9])[H:10])[N:5]([H:8])[H:11])([H:13])([H:14])[H:15],46.9024875000045
MR_119120_0,[C:1]([C:5]([C:2]([H:16])([H:17])[H:18])=[C:7]([N:3]([C:4]([N:6]([H:10])[H:11])=[O:8])[H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:5]([C:2]([H:16])([H:17])[H:18])([C:4]([N:6]([H:10])[H:11])=[O:8])/[C:7](=[N:3]/[H:9])[H:12])([H:13])([H:14])[H:15],69.95872000000531
MR_299020_0,[C:1]([N:4]([N:5]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])/[C:6](=[C:7](/[O:8][H:9])[H:11])[H:10])([H:12])([H:13])[H:14]>>[C:1](/[N:4]=[C:6](/[C@:7]([N:5]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])([O:8][H:9])[H:11])[H:10])([H:12])([H:13])[H:14],48.60991500000964
MR_263647_2,[C:1]1([C:4]([H:14])([H:15])[H:16])([N:5]([H:8])[H:9])[C:2]([N:6]([H:10])[H:11])([H:7])[C:3]1([H:12])[H:13]>>[C:1]([C:2]([C:4]([H:14])([H:15])[H:16])([N:6]([H:10])[H:11])[H:7])(=[C:3]([H:12])[H:13])[N:5]([H:8])[H:9],57.81910500001501
MR_244131_0,[C:1]([N:3]([H:10])[H:11])([C:4](=[O:8])[H:12])([O:6][H:9])/[N:7]=[C:5](\[C:2]([H:14])([H:15])[H:16])[H:13]>>[C:1](\[N:3]([H:10])[H:11])([O:6][H:9])=[N:7]\[C:5]([C:2]([H:14])([H:15])[H:16])([C:4](=[O:8])[H:12])[H:13],46.51155500002844
MR_305260_0,[N:1]([C:3]([O:6][H:10])=[O:8])([O:4][C:2]([O:5][H:9])=[O:7])[H:11]>>[N:1]([C:2]([O:5][H:9])=[O:7])([O:4][C:3]([O:6][H:10])=[O:8])[H:11],52.18164499998053
MR_432465_1,[C:1]([C:4]([N:2]([N:3]([N:5]([H:10])[H:11])[H:9])[O:7][H:8])=[C:6]([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:1]([C:4]([N:2]=[O:7])([N:3]([N:5]([H:10])[H:11])[H:9])[C:6]([H:8])([H:15])[H:16])([H:12])([H:13])[H:14],56.67266249998463
MR_260807_1,[C@@:1]([C:2]([H:14])([H:15])[H:16])([C:4]([N:6]([H:12])[H:13])=[O:9])(/[C:5]([C:3]([H:17])([H:18])[H:19])=[N:8]/[O:7][H:10])[H:11]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:5](/[C:3]([H:17])([H:18])[H:19])[N:8]([C:4]([N:6]([H:12])[H:13])=[O:9])[O:7][H:10])[H:11],68.50480250000217
MR_367833_0,[C:1]([N:3](/[C:4]([N:6]([H:10])[H:11])=[C:7](/[C:2]([H:16])([H:17])[H:18])[H:12])[N:5]([H:8])[H:9])([H:13])([H:14])[H:15]>>[C:1](/[N:3]=[C:4](\[N:6]([H:10])[H:11])[C@:7]([C:2]([H:16])([H:17])[H:18])([N:5]([H:8])[H:9])[H:12])([H:13])([H:14])[H:15],70.33898499997264
MR_94258_1,[C:1]([C:2]([O:5][H:7])([H:9])[H:10])([C:3]([H:12])([H:13])[H:14])([C:4](=[O:6])[H:11])[H:8]>>[C:1]([C:2](=[O:5])[H:9])([C:3]([H:12])([H:13])[H:14])([C:4]([O:6][H:7])([H:10])[H:11])[H:8],57.3334200000285
